US04980378
Preparation of Dodecyl Chloroacetate
A mixture of dodecanol (10 g, 0.054 mol), chloromethyl chloroformate (6 g, 0.05 mol) and triethylamine (5.5 g) in 40 ml of dry chloroform was stirred at room temperature for 16 hours. The reaction mixture was then washed twice with water (50 ml per washing) and the organic phase was dried over anhydrous magnesium sulfate. Removal of the solvent gave 13.3 g (94% yield) of liquid product, which was chromatographed through a column of Florisil using chloroform as the eluent. 1HNMR(CCl4) δ0.90(3H, t, CH3); 1.28[20 H, s, broad, --(CH2)10 --]; 3.93(2H, s, --CH2Cl); 4.11 (2H, t, J=6Hz, --CH2 --O). νmax (film): 2940, 2880(CH); 1765, 1745(C=O); 1180 (--C--O--C--)cm-1.

reactant | dodecanol | 0.054 mol, 10 g | C(CCCCCCCCCCC)O | C12H26O
reactant | chloromethyl chloroformate | 0.05 mol, 6 g | ClC(=O)OCCl | C2H2Cl2O2
reactant | triethylamine | 5.5 g | C(C)N(CC)CC | C6H15N
reactant | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | Dodecyl Chloroacetate | 13.3 g, 94% yield | ClCC(=O)OCCCCCCCCCCCC | C14H27ClO2
